US08957059B2
Step A: Preparation of 3-(5-Bromo-2-cyano-phenoxy)-azetidine-1-carboxylic acid tert-butyl ester
To a solution of 4-bromo-2-fluoro-benzonitrile (1.0 g, 5.0 mmol) and 3-hydroxy-azetidine-1-carboxylic acid tert-butyl ester (0.95 g, 5.5 mmol) in DMF (15 mL) at 0° C., was added NaH (60% in mineral oil, 130 mg, 5.5 mmol). After 18 h, H2O and EtOAc were added and the organic portion washed with brine (3×) and dried to provide the title compound (1.4 g, 79%). MS (ESI): mass calcd. for C15H17BrN2O3, 352.0. m/z found, 377.1 [M+Na]+. 1H NMR (CDCl3): 7.48 (d, J=8.2 Hz, 1H), 7.25 (dd, J=8.2, 1.7 Hz, 1H), 6.79 (d, J=1.6 Hz, 1H), 5.00-4.92 (m, 1H), 4.38 (ddd, J=9.9, 6.4, 1.1 Hz, 2H), 4.11 (dd, J=10.0, 3.8 Hz, 2H), 1.48 (s, 9H).

reactant | 4-bromo-2-fluoro-benzonitrile | 5.0 mmol, 1.0 g | BrC1=CC(=C(C#N)C=C1)F | C7H3BrFN
reactant | 3-hydroxy-azetidine-1-carboxylic acid tert-butyl ester | 5.5 mmol, 0.95 g | C(C)(C)(C)OC(=O)N1CC(C1)O | C8H15NO3
reactant | NaH | 5.5 mmol, 130 mg | [H-].[Na+]
reactant | H2O | O | H2O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(5-Bromo-2-cyano-phenoxy)-azetidine-1-carboxylic acid tert-butyl ester | 1.4 g, 79% | C(C)(C)(C)OC(=O)N1CC(C1)OC1=C(C=CC(=C1)Br)C#N | C15H17BrN2O3
